US06300368B1
2-Fluoro-5-nitroaniline (15.7 g) solution in pyridine (100 ml) was added drop-wise with methanesulfonylchloride (17.2 g) in an ice bathing. After being stirred for 2 hours at room temperature, the reaction mixture was added with 2N sodium hydroxide (200 ml) and washed with hexane (200 ml) two times. 2N HCl (300 ml) was added into the resultant aqueous layer and solids separated were collected by filtration, washed with water and dried under vacuum to obtain 2′-fluoro-5′-nitromethanesulfonanilide (21.8 g) as brownish solid.

reactant | 2-Fluoro-5-nitroaniline | 15.7 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | methanesulfonylchloride | 17.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2′-fluoro-5′-nitromethanesulfonanilide | 21.8 g | FC1=C(NS(=O)(=O)C)C=C(C=C1)[N+](=O)[O-] | C7H7FN2O4S
